US04851526
N-[2-(4-Methylphenoxy)ethyl]acetamide
Combine 5.0 g (0.046 mol) 4-methylphenol and 3.9 g (0.46 mol) 2-methyl-2-oxazoline under a nitrogen atmosphere and heat to 175° C. for 18 hours. After this time, cool the reaction mixture and add 50 mL of methylene chloride. Wash the organics with 3×10 mL of 10% potassium hydroxide, dry over sodium sulfate and remove the solvents to obtain the title compound.

reactant | 4-methylphenol | 0.046 mol, 5.0 g | CC1=CC=C(C=C1)O | C7H8O
reactant | 2-methyl-2-oxazoline | 0.46 mol, 3.9 g | CC=1OCCN1 | C4H7NO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(4-Methylphenoxy)ethyl]acetamide | CC1=CC=C(OCCNC(C)=O)C=C1 | C11H15NO2
